US09428483B2
Synthesis of (1S,2S,3S,5R,6S)-bis((5-methyl-2-oxo-1,3-dioxol-4-yl)methyl) 2-amino-3-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylate (C-2)
(1S,2S,3S,5R,6S)-2-(((Allyloxy)carbonyl)amino)-3-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid (A-1-1, 660 mg) and 4-(bromomethyl)-5-methyl-1,3-dioxol-2-one (639 mg) were treated in the same manner as in Example A-1 (3) and (4) to give the title compound (C-2, 207 mg) as a pale yellow oil.

reactant | (1S,2S,3S,5R,6S)-2-(((Allyloxy)carbonyl)amino)-3-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 660 mg | C(C=C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)O)C(=O)O | C12H14FNO6
reactant | 4-(bromomethyl)-5-methyl-1,3-dioxol-2-one | 639 mg | BrCC=1OC(OC1C)=O | C5H5BrO3
product | (1S,2S,3S,5R,6S)-bis((5-methyl-2-oxo-1,3-dioxol-4-yl)methyl) 2-amino-3-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylate | 207 mg | N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)OCC=1OC(OC1C)=O)C(=O)OCC=1OC(OC1C)=O | C18H18FNO10
